US07452385B2
Preparation of 1-(2-tert. butylphenyl)-6-(2-bromoethyl)-1H-indolo[5,4,3-def]isoquinoline-2,5,7(6H)-trione
0.92 g (2.22 mmol) of 1-(2-tert. butylphenyl)-6-(2-hydroxyethyl)-1H-indolo[5,4,3-def]isoquinoline-2,5,7(6H)-trione was dissolved in 60 mL of chloroform and heated to a boil. Then, 15 mL (15.54 mmol) of phosphorus tribromide was added dropwise within 20 minutes and the solution was heated at reflux for 2 hours. The reaction mixture was then poured onto ice, and the aqueous phase was extracted with chloroform. The combined organic phases were dried over magnesium sulfate. The purification was carried out by column chromatography on silica gel with toluene as the developing solvent.

reactant | 1-(2-tert. butylphenyl)-6-(2-hydroxyethyl)-1H-indolo[5,4,3-def]isoquinoline-2,5,7(6H)-trione | 2.22 mmol, 0.92 g | C(C)(C)(C)C1=C(C=CC=C1)N1C(C=2C=3C4=C(C(N(C(C4=CC2)=O)CCO)=O)C=CC13)=O | C25H22N2O4
reactant | phosphorus tribromide | 15.54 mmol, 15 mL | P(Br)(Br)Br | Br3P
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-tert. butylphenyl)-6-(2-bromoethyl)-1H-indolo[5,4,3-def]isoquinoline-2,5,7(6H)-trione | C(C)(C)(C)C1=C(C=CC=C1)N1C(C=2C=3C4=C(C(N(C(C4=CC2)=O)CCBr)=O)C=CC13)=O | C25H21BrN2O3
